US07635699B2
To a stirred solution of crude methyl 2-amino-7-(2,4-dichlorophenyl)-5-methyl-4,7-dihydro-[1,2,4]-triazolo[1,5-a]pyrimidine-6-carboxylate (10.1 mmol) in CH2Cl2 (100 mL) was added DDQ (2.75 g, 12.1 mmol). The reaction was kept at room temperature for 1 h and was quenched by satd aq NaHCO3 solution. The organic layer was washed with satd aq NaHCO3 and brine prior to drying over anhydrous MgSO4. Filtration, concentration under reduced pressure and purification by silica gel chromatography afforded methyl 2-amino-7-(2,4-dichlorophenyl)-5-methyl-[1,2,4]-triazolo[1,5-a]pyrimidine-6-carboxylate (2.0 g, 56%) as a light yellow solid.

reactant | methyl 2-amino-7-(2,4-dichlorophenyl)-5-methyl-4,7-dihydro-[1,2,4]-triazolo[1,5-a]pyrimidine-6-carboxylate | 10.1 mmol | NC1=NN2C(NC(=C(C2C2=C(C=C(C=C2)Cl)Cl)C(=O)OC)C)=N1 | C14H13Cl2N5O2
reactant | DDQ | 12.1 mmol, 2.75 g | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | methyl 2-amino-7-(2,4-dichlorophenyl)-5-methyl-[1,2,4]-triazolo[1,5-a]pyrimidine-6-carboxylate | 2.0 g, 56% | NC1=NN2C(N=C(C(=C2C2=C(C=C(C=C2)Cl)Cl)C(=O)OC)C)=N1 | C14H11Cl2N5O2
